US20010018525A1
Step 3 (3-Bromo-3′-chloro-5-dodecylcarbamoyl-4′-fluoro-biphenyl-2-yloxy)acetic acid
To a solution of N-dodecyl-3-bromo-4-(2-hydroxyethoxy)-5-(3-chloro-4-fluorophenyl)benzamide (340 mg, 0.61 mmol) in 5 mL CH2Cl2 was added NMMO.H2O (165 mg, 1.22 mmol) and TPAP (22 mg, 0.061 mmol). The reaction mixture was stirred ovemight and 2 mL CH3CN and 50 mg, 0.14 mmol TPAP were added. The reaction was stirred for ca 7 hours then 90 mg, 0.665 mmol NMMOH.H2O was added and the reaction was stirred overnight. The reaction was worked up by adding H2O and a mixture of sodium bisulfite/sodium dithionite and was stirred for 4 hours. The now grayish mixture was acidified with 2N HCl and extracted with EtOAc (3×). The combined organic layers were dried over Na2SO4 followed by filtration and removal of solvent in vacuo. There yielded a black semisolid that was subjected to column chromatography (40% EtOAc:60% Hexanes) on silica gel pretreated with HCOOH. Yield of the acid is 130 mg, 37% as a dark yellowish brown oil. 1H NMR (DMSO-d6) δ0.84 (t, J=6.81 Hz, 3H); 1.22-1.27 (m, 18H); 1.50 (t, J=6.37 Hz, 2H); 3.23 (q, J=6.81 Hz, 2H); 4.19 (s, 2H); 7.51 (t, J=8.57 Hz, 1H); 7.57-7.61 (m, 1H); 7.81 (dd, J=7.25 Hz, 2.20 Hz, 1H); 7.85 (d, J=2.2 Hz, 1H); 8.10 (d, J=2.20 Hz, 1H); 8.56 (t, J=5.49 Hz, 1H); 12.75 (bs, 1H); IR 3370, 2930, 1730, 1635, 1400, 1225, 1150, and 700 cm−1; mass spectrum [(+)APCI], m/z 570 [M+H]+; Anal. Calcd. for C27H34BrClFNO4: C, 56.80; H, 6.00; N, 2.45, Found: C, 54.30; H, 5.73; N, 2.18.

reactant | N-dodecyl-3-bromo-4-(2-hydroxyethoxy)-5-(3-chloro-4-fluorophenyl)benzamide | 0.61 mmol, 340 mg | C(CCCCCCCCCCC)NC(C1=CC(=C(C(=C1)C1=CC(=C(C=C1)F)Cl)OCCO)Br)=O | C27H36BrClFNO3
reactant | NMMO | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | sodium bisulfite sodium dithionite | S([O-])(O)=O.[Na+].S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | HCl | 2N | Cl | ClH
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
catalyst | TPAP | 0.061 mmol, 22 mg | CCC[N+](CCC)(CCC)CCC.[O-][Ru](=O)(=O)=O
catalyst | TPAP | 0.14 mmol, 50 mg | CCC[N+](CCC)(CCC)CCC.[O-][Ru](=O)(=O)=O
solvent | HCOOH | C(=O)O | CH2O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | H2O | O | H2O
solvent | CH3CN | 2 mL | CC#N | C2H3N
solvent | H2O | 1.22 mmol, 165 mg | O | H2O
product | (3-Bromo-3′-chloro-5-dodecylcarbamoyl-4′-fluoro-biphenyl-2-yloxy)acetic acid | BrC=1C(=C(C=C(C1)C(NCCCCCCCCCCCC)=O)C1=CC(=C(C=C1)F)Cl)OCC(=O)O | C27H34BrClFNO4
